US05061720
4-(3-Aminopropoxy)benzoic acid ethyl ester.
A stirred mixture of 11.8 g (0.033 mole) of 4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoic acid ethyl ester and 2.4 g of 85% hydrazine hydrate in 300 mL of ethanol was heated at reflux temperature for 3 hr. After cooling the reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was treated with 450 mL of 2N hydrochloric acid and filtered. The filtrate was basified to pH 11 with potassium carbonate and the mixture was extracted twice with 200 mL portions of methylene chloride. The combined extract was washed with 200 mL of water and the solvent was evaporated under reduced pressure to give 3.8 g of oil that solidified on standing.

reactant | 4-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoic acid ethyl ester | 0.033 mole, 11.8 g | C(C)OC(C1=CC=C(C=C1)OCCCN1C(C2=CC=CC=C2C1=O)=O)=O | C20H19NO5
reactant | hydrazine hydrate | 2.4 g | O.NN
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 4-(3-Aminopropoxy)benzoic acid ethyl ester | 3.8 g | C(C)OC(C1=CC=C(C=C1)OCCCN)=O | C12H17NO3
